US03952024
4-Methyl-2-propionyl-thiazole was prepared according to the method described in Bull. 20, 702 (1953) by reacting 4-methyl-thiazole with ethyl-magnesium bromide and acylating the obtained Grignard intermediate with propionyl chloride. The product has a b.p. of 83°-88°C./9 mm. Hg.

reactant | 4-methyl-thiazole | CC=1N=CSC1 | C4H5NS
reactant | ethyl-magnesium bromide | C(C)[Mg]Br
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 4-Methyl-2-propionyl-thiazole | CC=1N=C(SC1)C(CC)=O | C7H9NOS
